data/oMe_Silver.jsonl
{"reaction_id": "NR-307_1-C_2-C(C)(C)C_3-CCCC_4-S(=O)(=O)c1ccccc1","level": "hard","name": "Tiffeneau–Demjanov rearrangement","reactants_smiles": ["NC(CCCC)(S(=O)(=O)c1ccccc1)C(O)(C)(C(C)(C)C)"],"products_smiles": ["O=C(C)C(C(C)(C)C)(CCCC)S(=O)(=O)c1ccccc1"],"conditions": "HONO, H2O","mechanism_step_nums": 10,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]N=O","step_weight": 0,"rationale": "Acidic conditions protonate nitrous acid, increasing electrophilicity of the nitrosonium species precursor."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "N#[O+]","step_weight": 0,"rationale": "Protonated nitrous acid loses water, forming the highly electrophilic nitrosonium ion (NO⁺)."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "OC(C(CCCC)(S(=O)(=O)c1ccccc1)[NH2+]N=O)(C)(C(C)(C)C)","step_weight": 0,"rationale": "The amine nitrogen attacks NO⁺ due to its lone pair, forming an N-nitrosamine intermediate."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(CCCC)(S(=O)(=O)c1ccccc1)[NH]N=O)(C)(C(C)(C)C)","step_weight": 0,"rationale": "Proton transfer stabilizes the N-nitrosamine by adjusting charge distribution for further rearrangement."},{"step": 5,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(CCCC)(S(=O)(=O)c1ccccc1)[NH+]=NO)(C)(C(C)(C)C)","step_weight": 0,"rationale": "Protonation of the nitroso group increases its leaving group potential and sets up diazotization."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "OC(C(CCCC)(S(=O)(=O)c1ccccc1)N=NO)(C)(C(C)(C)C)","step_weight": 0,"rationale": "Deprotonation restores neutrality, facilitating tautomerization toward the diazonium precursor."},{"step": 7,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[OH2+]N=NC(CCCC)(S(=O)(=O)c1ccccc1)C(O)(C)(C(C)(C)C)","step_weight": 0,"rationale": "Protonation at the hydroxyl oxygen enhances leaving group ability for subsequent nitrogen extrusion."},{"step": 8,"type": "cleavage","subtype": "heterolytic_cleavage","intermediate_smiles": "N#[N+]C(CCCC)(S(=O)(=O)c1ccccc1)C(O)(C)(C(C)(C)C)","step_weight": 0,"rationale": "Heterolytic cleavage releases N₂, driven by the stability of the neutral nitrogen molecule."},{"step": 9,"type": "rearrangement","subtype": "1,2-shift","intermediate_smiles": "[OH+]=C(C)C(C(C)(C)C)(CCCC)(S(=O)(=O)c1ccccc1)","step_weight": 0,"rationale": "A 1,2-shift occurs to stabilize the carbocation via migration of the adjacent substituent, yielding a more substituted cation."},{"step": 10,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "O=C(C)C(C(C)(C)C)(CCCC)(S(=O)(=O)c1ccccc1)","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate yields the neutral ketone product."}],"description": "Under acidic nitrosation conditions, the amine is converted to a diazonium-like intermediate, which undergoes nitrogen loss and a 1,2-shift to expand the ring or rearrange the carbon skeleton. Proton transfers facilitate intermediate stability, and water assists in hydrolysis to the ketone product."}
